US04299961
Preparation of 5-bromo-2,4-dichloropyrimidine
5-bromouracil (30 g, 0.16 mole) was added to a flask containing 130 ml of POCl3. The mixture was heated at reflux for 4 days. During this time the reaction contents were protected from atmospheric moisture; HCl gas was evolved and the solution became homogeneous. Excess POCl3 was removed by distillation at atmospheric pressure. Continued distillation at reduced pressure afforded the title compound, bp 85°-90°/4 mm (29.7 g, 82% yield).

reactant | 5-bromouracil | 0.16 mole, 30 g | BrC=1C(NC(NC1)=O)=O | C4H3BrN2O2
reactant | HCl | Cl | ClH
reactant | POCl3 | 130 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 5-bromo-2,4-dichloropyrimidine | 82% yield | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
